US09428452B2
N-(2,4-dimethylphenyl)-3-hydroxy-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide
To a solution of N-(2,4-dimethylphenyl)-3-hydroxy-N-isobutyl-4-vinylbenzenesulfonamide (100.8 mg, 0.280 mmol) in dichloromethane (DCM) (20 mL) stirred under nitrogen at 0° C. was added meta-chloroperoxybenzoic acid (mCPBA) (194 mg, 1.122 mmol) portionwise. The reaction mixture was stirred at 0° C. for 30 minutes, then for 72 hours at room temperature. DCM (20 mL) was added to the mixture and the organic phase washed with water (20 mL), dried using a hydrophobic frit and concentrated under a stream of nitrogen to give the crude product, 60 mg, which was used directly in the next step with no further purification. LCMS [LCMS2] Rt 1.42 min, m/z (ES−) 374 (M−H).

reactant | N-(2,4-dimethylphenyl)-3-hydroxy-N-isobutyl-4-vinylbenzenesulfonamide | 0.280 mmol, 100.8 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C=C1)C=C)O)CC(C)C | C20H25NO3S
reactant | meta-chloroperoxybenzoic acid | 1.122 mmol, 194 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | 20 mL | ClCCl | CH2Cl2
product | N-(2,4-dimethylphenyl)-3-hydroxy-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=C(C=C1)C1OC1)O)CC(C)C | C20H25NO4S
